US09303007B2
DIPEA (0.040 mL, 0.227 mmol) was added to a solution of 2-bromo-1-(6-bromoquinoxalin-2-yl)ethanone (50 mg, 0.152 mmol) and (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid (37.9 mg, 0.167 mmol) in acetonitrile (1.5 mL) and the mixture was stirred at rt for 16 h. The solvent was evaporated and the residue was partitioned between EtOAc (20 mL)/aq. sat. NaHCO3 (5 mL). The organic layer was dried (MgSO4), filtered and concentrated to yield crude (1R,3S,5R)-3-(2-(6-bromoquinoxalin-2-yl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate (63 mg) as orange solid. LC-MS retention time 2.74 min; m/z 476 [M+H]+. (Column PHENOMENEX® Luna 3.0×50 mm 510. Solvent A=90% water: 10% methanol: 0.1% TFA. Solvent B=10% water: 90% methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220).

reactant | DIPEA | 0.227 mmol, 0.040 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-1-(6-bromoquinoxalin-2-yl)ethanone | 0.152 mmol, 50 mg | BrCC(=O)C1=NC2=CC=C(C=C2N=C1)Br | C10H6Br2N2O
reactant | (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid | 0.167 mmol, 37.9 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | (1R,3S,5R)-3-(2-(6-bromoquinoxalin-2-yl)-2-oxoethyl) 2-tert-butyl 2-azabicyclo[3.1.0]hexane-2,3-dicarboxylate | 63 mg | [C@@H]12N([C@@H](C[C@H]2C1)C(=O)OCC(=O)C1=NC2=CC=C(C=C2N=C1)Br)C(=O)OC(C)(C)C | C21H22BrN3O5
